US08912210B2
Step C: (6S)-2′-Oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylic acid
A mixture of methyl (6S)-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate (30.0 g, 102 mmol) and aqueous 6 N sodium hydroxide solution (50.8 mL, 305 mmol) in MeOH (920 mL) was heated at reflux for 1 h. The mixture was allowed to cool to 23° C. before it was acidified to pH ˜6 with aqueous 1 N hydrochloric acid solution, resulting in a black precipitate which was removed by filtration. The filtrate was concentrated under reduced pressure to a volume of ˜100 mL and then partitioned between water (500 mL) and 2-methyltetrahydrofuran (2-MeTHF, 250 mL). The aqueous layer was extracted with 2-MeTHF (5×250 mL), and the combined organic layers were dried over sodium sulfate and concentrated to provide the title compound. MS: m/z=282.0 (M+1).

reactant | methyl (6S)-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | 102 mmol, 30.0 g | O=C1[C@@]2(C=3C(=NC=CC3)N1)CC=1C(=NC=C(C1)C(=O)OC)C2 | C16H13N3O3
reactant | sodium hydroxide | 305 mmol, 6 N, 50.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | MeOH | 920 mL | CO | CH4O
product | (6S)-2′-Oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylic acid | O=C1[C@@]2(C=3C(=NC=CC3)N1)CC=1C(=NC=C(C1)C(=O)O)C2 | C15H11N3O3
